US04229595
A reaction apparatus with a stirrer was charged with 84 ml of 99% nitric acid and 540 ml water, and the mixture was cooled to 0° C. Thereafter, at one and the same time, 54 g of m-cresol and 53 g of liquid N2O3 were added. The temperature was kept through cooling the whole time below 5° C. After the addition of m-cresol and N2O3 had been completed, the stirring was continued for 1 hour, the temperature then being kept at approx. 0° C. Thereafter the temperature was allowed to rise to approx. 30° C., and at that temperature the stirring was continued for 2 hours. The reaction mixture was thereafter cooled to 0° C. and a solid product was then precipitated. This solid product was then filtered off, washed with water and dried. In this way, 70 g of raw p-nitro-m-cresol with a melting point of 118°-122° C. was obtained.

reactant | nitric acid | 84 ml | [N+](=O)(O)[O-] | HNO3
reactant | m-cresol | 54 g | C1=C(C=CC=C1O)C | C7H8O
solvent | water | 540 ml | O | H2O
product | p-nitro-m-cresol | 70 g | [N+](=O)([O-])C=1C(=CC(=CC1)O)C | C7H7NO3
